* Common mode range simulation

.lib dc2

VIN     in1 0   dc 0
E1      0 in2 in1 0             1
VDD     vdd 0   'half'
VSS     0 vss   'half'
 
 
* Positive side
X1a     inm1 inp1 outx1 vdd vss opamp
R1a     in1 inp1                'rload/2'
R2a     inp1 0                  'rload/2'
R3a     in1 inm1                'rload/2'
R4a     inm1 out1               rload
E1a     out1 0 outx1 0          bgain
R5a     outx1 0                 rload
 
* Negative side
X1b     inm2 inp2 outx2 vdd vss opamp
R1b     in2 inp2                'rload/2'
R2b     inp2 0                  'rload/2'
R3b     in2 inm2                'rload/2'
R4b     inm2 out2               rload
E1b     out2 0 outx2 0          bgain
R5b     outx2 0                 rload
 
* offset voltage
X2      inm3 0 osx vdd vss      opamp
R12     0 inm3                  'rload/2'
R22     inm3 os                 rload
E2      os 0 osx 0              bgain
R32     osx 0                   rload
 
.PARAM half='psvoltage/2' rload=20k bgain=10
.DC VIN 10m psvoltage '(psvoltage-10m)/100'
.PRINT V(out1,os) V(out2,os)
* + PAR'1-ABS(V(out1,os))/(0.5*V(in1))' PAR'1-ABS(V(out2,os))/(0.5*V(in1))'
.MEAS DC cmr1 FIND V(in1) WHEN PAR'abs(1-abs(V(out1,os)/(0.5*V(in1))))'=0.05 
.MEAS DC cmr2 FIND V(in1) WHEN PAR'abs(1-abs(V(out2,os)/(0.5*V(in1))))'=0.05
.MEAS DC cmr PARAM='0.5*(cmr1+cmr2)/psvoltage*100'
.MEAS DC psvoltage PARAM=psvoltage
.endl dc2
